Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
 Right rib pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo ___ male with a history of 
cholelithiasis, HTN, HL presenting with ruq pain. History is 
unclear, but daughter first noticed the patient was holding his 
right side yesterday, and complained of right sided 
abdominal/rib pain. Unclear when it started. Not associated with 
eating. Nonexertional.  Had chest pain last ___ that 
reportedly resolved, sharp quality, woke up with it in the 
middle of the night. Apparently was having chest pain about a 
year or so ago when living in ___, which prompted a cardiac 
w/u at ___ with exercise stress test. This was about a year ago. 
She said that the results suggested a small blockage somewhere, 
but was medically managed. Has never had a catheterization. 
Denies shortness of breath, although daughter has noticed that 
he gets tired more easily with exertion, although doesn't seem 
more short of breath, although has noted wheezing at times. No 
recent fevers, chills, cough. Denies n/v/d. Daughter also notes  
  

Of note, per discussion with cardiologist Dr. ___, had 
pharmacologic nuclear stress test in ___ showing mild 
inferolateral defect but with normal EF. Treated medically as he 
was asymptomatic. Subsequently had a SAH with a R supraclinoid 
aneurysm, so decision was made with patient, family and 
providers to stop treatment with antiplatelet agents. Had 
myalgias with atorvastatin, so has been managed medically with 
lovastatin and metoprolol.

Scheduled for follow-up appointment with Dr. ___ tomorrow 
to discuss elective cholecystectomy. 

In the ED, initial vitals were: 5 97.5 64 139/99 16 100% RA 
Labs notable for WBC 5.9, H/H 12.8/38.4, BUN/CR ___, LFTs 
WNL, Trop-T: <0.01. 
Imaging notable for RUQ with Cholelithiasis with a gallstone 
seen at the gallbladder neck. No other evidence of acute 
cholecystitis. CXR w/ no acute cardiopulmonary process.
Vitals on transfer: 3 70 112/50 16 96% RA 
 
On the floor, he continues to endorse pain that is very 
localized to the lateral right lower rib.  
 
Past Medical History:
- hypertension
- CAD (nuclear stress test ___ at ___: mild inferolateral 
defect, normal EF)
- Subarachnoid hemorrhage related to R supraclinoid aneurysm 
(___) 
- H/o TIA
- hypothyroidism
- anxiety
- left hip replacement ___  
- bilateral cataract surgery

 
Social History:
___
Family History:
Family history is negative for coronary artery disease or 
cancer.  
 
Physical Exam:
ON ADMISSION: 
VS: 97.3 126/73 74 18 97% on RA    
General: Pleasant elderly gentleman laying comfortably in bed in 
NAD  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Mild expiratory wheeze in the mid to upper lung fields 
bilaterally, otherwise clear to auscultation bilaterally. 
CV: Somewhat distant heart sounds, but regular rate and rhythm, 
normal S1 + S2, no murmurs, rubs, gallops appreciated. Point 
tenderness over the lateral right lower rib.     
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. Neg murhpys 
sign.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No notable rashes or lesions  
Neuro: Moving all extremities equally with purpose.   

ON DISCHARGE: 
VS: afebrile ___ 138/36 (94-138/59-86) 18 97%RA
General: Pleasant elderly gentleman laying comfortably in bed in 
NAD  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Mild expiratory wheeze in the mid to upper lung fields 
bilaterally, otherwise clear to auscultation bilaterally. 
CV: RRR. II/VI systolic ejection murmur heard best at the right 
___ ICS.  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. Neg murhpys 
sign.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No notable rashes or lesions  
Neuro: Moving all extremities equally with purpose.   

 
Pertinent Results:
ADMISSION LABS: 
___ 03:45PM BLOOD WBC-5.9 RBC-4.33* Hgb-12.8* Hct-38.4* 
MCV-89 MCH-29.6 MCHC-33.3 RDW-13.9 RDWSD-44.6 Plt ___
___ 03:45PM BLOOD Neuts-50.0 ___ Monos-10.2 Eos-5.8 
Baso-0.3 Im ___ AbsNeut-2.95 AbsLymp-1.96 AbsMono-0.60 
AbsEos-0.34 AbsBaso-0.02
___ 03:45PM BLOOD ___ PTT-32.1 ___
___ 03:45PM BLOOD Glucose-96 UreaN-21* Creat-1.1 Na-138 
K-4.3 Cl-103 HCO3-27 AnGap-12
___ 03:45PM BLOOD ALT-11 AST-19 AlkPhos-53 TotBili-0.6
___ 03:45PM BLOOD Lipase-34
___ 03:45PM BLOOD Albumin-4.1

PERTINENT LABS: 
___ 03:45PM BLOOD cTropnT-<0.01
___ 12:26AM BLOOD cTropnT-<0.01
___ 05:56AM BLOOD cTropnT-<0.01
___ 07:11PM BLOOD cTropnT-<0.01
___ 03:00PM BLOOD cTropnT-<0.01

DISCHARGE LABS: 
___ 03:00PM BLOOD WBC-6.5 RBC-4.42* Hgb-12.9* Hct-39.4* 
MCV-89 MCH-29.2 MCHC-32.7 RDW-13.8 RDWSD-44.7 Plt ___
___ 03:00PM BLOOD Glucose-167* UreaN-20 Creat-1.2 Na-137 
K-4.7 Cl-101 HCO3-26 AnGap-15
___ 03:00PM BLOOD Calcium-9.8 Phos-3.5 Mg-2.0

IMAGING/STUDIES: 

RUQUS ___
IMPRESSION: Cholelithiasis with a gallstone seen at the 
gallbladder neck.  No other
evidence of acute cholecystitis.

CXR PA+LAT ___
FINDINGS: There is evidence of right apical scarring and 
possible calcified node at the
right hilum.  Opacity at the right cardiophrenic angle is felt 
most likely to
be a fat pad as seen on the lateral view.  Elsewhere, lungs are 
clear.  The
cardiomediastinal silhouette is within normal limits.  No acute 
osseous
abnormalities.
 
IMPRESSION: No acute cardiopulmonary process.

Pharmacologic Stress test ___ 
RESTING DATA
EKG:  SR, LEFTWARD AX, ERWP 
HEART RATE:  62BLOOD PRESSURE:  164/100
 
PROTOCOL  /
STAGETIMESPEEDELEVATIONWATTSHEARTBLOODRPP
 (MIN)(MPH)(%) RATEPRESSURE 
___ ___
 
TOTAL EXERCISE TIME:  4% MAX HRT RATE ACHIEVED:  63
SYMPTOMS:NONE 
ST DEPRESSION:NONE
 
INTERPRETATION: This ___ year old man with hx of HTN and HL was
referred to the lab for evaluation of chest discomfort. He was 
infused
with 0.142/mg/kg/min of dipyridamole over 4 minutes. He did not 
report
any chest, arm, neck or back discomfort throughout the study. No 
ST
segment changes were seen throughout the test. Rhythm was sinus 
with no
ectopy. Baseline HTN with appropriate hemodynamic response to 
the
infusion. The dipyridamole reversed with 125 mg aminophylline 
IV.
IMPRESSION : No anginal type symptoms or ST segment changes. 
Nuclear
report sent separately.

Pharmacologic perfusion study ___: 
TECHNIQUE:  ISOTOPE DATA: (___) 10.7 mCi Tc-99m Sestamibi 
Rest; (___)
31.6 mCi Tc-99m Sestamibi Stress; DRUG DATA: (Non-NM admin) 
Dipyridamole.
 
Resting images were obtained approximately 45 minutes following 
the intravenous
injection of tracer.
Stress images were obtained after resting images and 
approximately 30 minutes
following the intravenous injection of tracer.
Imaging protocol: Gated SPECT.
This study was interpreted using the 17-segment myocardial 
perfusion model.
 
FINDINGS:  Left ventricular cavity size is normal
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the
left ventricular myocardium.
 
Gated images reveal normal wall motion.
The calculated left ventricular ejection fraction is 56%.
 
IMPRESSION:  Normal myocardial perfusion study including the 
inferolateral wall.
 Normal wall motion with an estimated ejection fraction of 56%.
 
 
Brief Hospital Course:
___ yo male with a history of cholelithiasis, HTN, HL presenting 
with one day of right sided rib/right upper quadrant pain.

#Costochondritis:  Pain localized to lower right rib and 
reproduced with palpation. ECG on presentation with no acute 
ischemic changes. Trop neg x 3. CXR with no acute process. RUQ 
US showed cholelithiasis with stone in the gallbladder neck, but 
no e/o cholecystitis. Likely musculoskeletal/rib pain from 
costochrondritis. Pain improved on standing tylenol. Had episode 
of new vague chest discomfort the day prior to discharge. ECG 
unchanged. Trop neg x 1. Low concern for cardiac etiology, but 
given previous abnormal stress test and consideration of 
elective cholecystectomy, pt underwent pharm nuclear stress test 
to assist with pre-op cardiac risk assessment. No anginal type 
symptoms or ST segment changes with stress and normal myocardial 
perfusion study with normal wall motion and EF 56%. Discharged 
with PCP, cardiology and surgery follow-up. 

#Cholelithiasis: On presentation RUQUS with stone noted in the 
gall bladder neck, no e/o cholecystitis. Symptoms on 
presentation thought unlikely to be related to biliary colic. 
Seen by surgery team while inpatient to discuss option of 
elective cholecystectomy, with plan on discharge to follow-up in 
several weeks with Dr. ___ in clinic.

#HTN: continued home metoprolol

#HL: continued home statin

===================
TRANSITIONAL ISSUES: 
===================
- Cholelithiasis: gallstone seen in neck of gallbladder this 
admission, but current symptoms unlikely related. Will require 
further discussion of benefits versus risk of elective 
cholecystectomy. Plan for outpatient follow-up with cardiology 
and surgery.
-CAD: Continued on home metoprolol and lovastatin for medical 
management, without ASA per prior discussion with outpatient 
providers given history of SAH and decision to avoid treatment 
with anticoagulants/antiplatelet agents. Pharm nuclear stress 
test showed no evidence of reversible ischemia. Recommend formal 
preoperative evaluation by PCP prior to proceeding with surgery. 

- CONTACT: ___ (daughter, HCP): ___ 
- CODE: Full code (confirmed) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lovastatin 20 mg oral DAILY 
2. OxycoDONE (Immediate Release)  2.5-5 mg PO Q6H:PRN pain 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO BID 
5. FLUoxetine 20 mg PO DAILY 

 
Discharge Medications:
1. FLUoxetine 20 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO BID 
4. Lovastatin 20 mg oral DAILY 
5. OxycoDONE (Immediate Release)  2.5-5 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Costochondritis 

SECONDARY DIAGNOSIS: cholelithiasis, HTN, HL, CAD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You came into the hospital because you were having right sided 
chest wall pain. You had blood tests and an EKG done which 
showed that this pain was not from a heart attack. It is most 
likely pain from a rib or muscle strain. Because you had an 
episode of chest pain recently, you had a stress test which was 
negative. You should continue to talk with your family, 
cardiologist and primary care provider to decide on whether to 
proceed with surgery to remove the gall bladder. 

It was a pleasure being involved in your care! 
Your ___ Care Team
 
Followup Instructions:
___